US07335658B2
6-[4-(2,2-DIMETHYLBUTYRYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 2,2-dimethylbutyric acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-ylpyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white solid (46% yield). 1H NMR (300 MHz, CDCl3) δ 8.05, 8.01, 6.98, 3.86-3.73, 3.57, 1.68, 1.52, 0.92, 0.80-0.72, 0.49-0.45, 0.14-0.08. MS (ES+) m/z 374.3 (M+1).

reactant | 2,2-dimethylbutyric acid | CC(C(=O)O)(CC)C | C6H12O2
reactant | 6-piperazin-1-ylpyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2,2-DIMETHYLBUTYRYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C(CC)(C)C)=O | C20H31N5O2
